US04165377
A mixture of 2-guanidino-4-(4-aminobutyl)imidazole (0.15 g.) and methylisothiocyanate (0.1 g.) in ethanol (10 ml.) was stirred overnight and then evaporated to dryness. The residue was purified by chromatography on a silica gel column using chloroform/methanol/ammonia (s.g. 0.880) 80:20:0.3 v/v/v. The appropriate fractions on evaporation gave a gum which crystallized on triturating in petroleum ether (b.p. 40°-60° C.) to give 2-guanidino-4-[4-(3-methylthioureido)butyl]imidazole, m.p. 179°-184° C.

reactant | 2-guanidino-4-(4-aminobutyl)imidazole | 0.15 g | N(C(=N)N)C=1NC=C(N1)CCCCN | C8H16N6
reactant | methylisothiocyanate | 0.1 g | CN=C=S | C2H3NS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-guanidino-4-[4-(3-methylthioureido)butyl]imidazole | N(C(=N)N)C=1NC=C(N1)CCCCNC(=S)NC | C10H19N7S
